US05300479
Preparation of Ethyl 4-cyano-1,3-dimethyl-1H-indazole-5-carboxylate
A mixture of ethyl 4-cyano-6,7-dihydro-1,3-dimethyl-1H-indazole-5-carboxylate (13.5 g, 55.0 mmol), o-chloranil (16.3 g, 66.0 mmol) and dry benzene is stirred for 1.5 hours at reflux temperature, cooled and filtered. The filtrate is concentrated in vacuo, filtered through two pads of neutral alumina and evaporated to dryness to afford a yellow solid. Recrystallization from ethyl acetate affords the title product (6.33 g, 47.2%), mp 170°-175.5° C.

reactant | ethyl 4-cyano-6,7-dihydro-1,3-dimethyl-1H-indazole-5-carboxylate | 55.0 mmol, 13.5 g | C(#N)C=1C=2C(=NN(C2CCC1C(=O)OCC)C)C | C13H15N3O2
reactant | o-chloranil | 66.0 mmol, 16.3 g | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl 4-cyano-1,3-dimethyl-1H-indazole-5-carboxylate | 6.33 g, 47.2% | C(#N)C1=C2C(=NN(C2=CC=C1C(=O)OCC)C)C | C13H13N3O2
